US05798354
(e) Synthesis of methyl 4-[2-hexyloxy-5-(1-adamantyl)-4-hexyloxyphenylethynyl]benzoate
1.8 g (4.1 mmol) of 2,4-dihexyloxy-5-(1-adamantyl)phenylacetylene, 1.2 g (4.5 mmol) of methyl 4-iodobenzoate and 15 ml of triethylamine were introduced into a three-necked flask. The reaction mixture was degassed with nitrogen for 15 min, 100 mg of copper iodide and 260 mg (0.37 mmol) of bis(triphenylphosphine)-palladium(II) chloride were added and stirring was carried out at room temperature for twelve hours. The reaction mixture was evaporated to dryness, the residue was taken up in water and ethyl ether and the organic phase was separated by settling, dried over magnesium sulfate and evaporated.

reactant | 2,4-dihexyloxy-5-(1-adamantyl)phenylacetylene | 4.1 mmol, 1.8 g | C(CCCCC)OC1=C(C=C(C(=C1)OCCCCCC)C12CC3CC(CC(C1)C3)C2)C#C | C30H44O2
reactant | methyl 4-iodobenzoate | 4.5 mmol, 1.2 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
catalyst | copper iodide | 100 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.37 mmol, 260 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | methyl 4-[2-hexyloxy-5-(1-adamantyl)-4-hexyloxyphenylethynyl]benzoate | C(CCCCC)OC1=C(C=C(C(=C1)OCCCCCC)C12CC3CC(CC(C1)C3)C2)C#CC2=CC=C(C(=O)OC)C=C2 | C38H50O4
